US07968746B2
Oxidation as described in protocol B, using 1.49 g (5.11 mmol) of precursor (R)-6-hydroxy-N-(2-hydroxyethyl)-2,5,7,8-tetramethylchroman-2-carboxamide and 6.16 g CAN (11.2 mmol) yielded 1.46 g of (R)-2-hydroxy-N-(2-hydroxyethyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a waxy yellow solid.

reactant | (R)-6-hydroxy-N-(2-hydroxyethyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 5.11 mmol, 1.49 g | OC=1C(=C2CC[C@@](OC2=C(C1C)C)(C(=O)NCCO)C)C | C16H23NO4
reactant | CAN | 11.2 mmol, 6.16 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | (R)-2-hydroxy-N-(2-hydroxyethyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 1.46 g | O[C@@](C(=O)NCCO)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C16H23NO5
